US09447117B2
5-methyl-3-(2H-1,2,3-triazol-2-yl)picolinic acid
(sodium 5-methyl-3-(2H-1,2,3-triazol-2-yl)picolinate). To a solution of the title compound of Step A (489 mg, 2.6 mmol) in EtOH (7 mL) was added 4 N NaOH (660 μL, 2.6 mmol). The mixture was heated at 100° C. for 24 h. The reaction mixture was concentrated in vacuo to a white solid which was used without further purification in subsequent steps. MS (ESI) mass calcd. for C9H8N4O2, 204.1. m/z found 205.0 [M+H]+.

reactant | sodium 5-methyl-3-(2H-1,2,3-triazol-2-yl)picolinate | CC=1C=C(C(=NC1)C(=O)[O-])N1N=CC=N1.[Na+]
reactant | NaOH | 2.6 mmol, 4 N, 660 μL | [OH-].[Na+]
solvent | EtOH | 7 mL | CCO | C2H6O
product | 5-methyl-3-(2H-1,2,3-triazol-2-yl)picolinic acid | 2.6 mmol, 489 mg | CC=1C=C(C(=NC1)C(=O)O)N1N=CC=N1 | C9H8N4O2
